US08748452B2
To a solution of 4-chloro-3-trifluoromethylpyridine hydrochloride salt (2.0 g) in tetrahydrofuran (5 mL) were added sodium hydride (60%, 2.8 g) and propan-2-ol (2.8 g), and the mixture was stirred at 50° C. for 2 hours. After cooling to room temperature, to the reaction mixture was added water, and the resulting mixture was extracted with diethyl ether. The organic layer was dried over magnesium sulfate, and concentrated. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate) to give 4-isopropoxy-3-trifluoromethylpyridine (1.5 g). To a solution of the obtained compound (1.5 g) in ethyl acetate (20 mL) was added 4-bromomethylbenzoic acid methyl ester (2.0 g) at room temperature, and the mixture was heated under reflux overnight. After cooling to room temperature, the solvent was removed to give 4-isopropoxy-1-(4-methoxycarbonylbenzyl)-3-trifluoromethyl-pyridinium bromide (2.1 g). To a solution of the obtained compound (2.1 g) in dimethoxyethane (10 mL) were added acrylonitrile (1.3 g), manganese dioxide (2.1 g) and triethylamine (1.5 g), and the mixture was stirred at 80° C. for 6 hours. The reaction mixture was filtered through a Celite pad, and filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate) to give the title compound (0.04 g).

reactant | 4-chloro-3-trifluoromethylpyridine hydrochloride salt | 2.0 g | Cl.ClC1=C(C=NC=C1)C(F)(F)F
reactant | sodium hydride | 2.8 g | [H-].[Na+]
reactant | propan-2-ol | 2.8 g | CC(C)O | C3H8O
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-isopropoxy-3-trifluoromethylpyridine | 1.5 g | C(C)(C)OC1=C(C=NC=C1)C(F)(F)F | C9H10F3NO
